datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2-:11][H:10].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2:11].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;20,21=21,22;22,23=23"
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:72]1=[CH:71][N-:10][C:61](=[O:62])[NH:84][C:73]1=[O:74]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[C:61](=[O:62])[NH:84][C:73](=[O:74])[C:72](C)=[CH:71]2)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.COC(=O)CC[C:11](=[CH2:10])[N:12](O[Si](C)(C)C)O[Si](C)(C)C>>COC(=O)CC[C:11]([CH2:10][CH:20](CC(C)C1=C(C)C=C(C)C=C1C)[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C)=[N+:12](O[Si](C)(C)C)O[Si](C)(C)C 10,11=10,20;12=11,12"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.N[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>N[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[C:20]([S-:21])=[N:31]C2=CC=CC=C2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12;20,21=21"
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C[C:22]1=[C:21]([CH:20]([CH:10]([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:62]2=[C:63](C=C1)[C:71](=[O:72])[N-:10][C:61]2=[O:62].CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[N:10]3[C:61](=[O:62])[C:62]4=[C:63](C=CC=C4)[C:71]3=[O:72])[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:11]1([H:10])[O:12]CC[O:62]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1.C[C:11]1=[O+:12]CC[O:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[N+](CC)(CC)[BH2-:11][H:10].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CC[N+](CC)(CC)[BH2:11].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:106])[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:106])[CH:93]=[CH:92]1 10=20;20,21=21,22;22,23=23"
"C[N:12]1CC[N:62](C)[C:11]1=[CH2:10].C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N+:12]1=[C:11]([CH2:10][CH:20]([C:31]2=[CH:32][CH:33]=[C:34]([O:37]C)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[N:62](C)CC1 10,11=10,20;12=11,12"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Ge:73](C)(C)C.[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Ge:73](C)(C)C.[H:10][C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2 10,11=10,20"
"C1=CC=C(C[N:12]2CC[N:10]=[C:11]2C2=CC=CC=C2)C=C1.COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1>>COC1=CC=[N+](C[C:21]([CH:20]([N:10]2CC[N+:12](CC3=CC=CC=C3)=[C:11]2C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[C:10](\C1=CC=CC=C1)[C:71]#[N:72])[O-:12].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>CC[O:62][C:11]([C:10](C1=CC=CC=C1)([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]1[N+](=O)[O-])[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
